US08048878B2
Synthesis of (6R*,9aS*)-6-(3-fluorophenyl)-3-iodooctahydroquinolizin-4-one
Iodotrimethylsilane (0.34 mL) was added to a solution of (6R*,9aS*)-6-(3-fluorophenyl) octahydroquinolizin-4-one (383 mg) and N,N,N′,N′-tetramethylethylenediamine (0.82 mL) in methylene chloride (15 mL) under ice-cooling in a nitrogen atmosphere, and the reaction solution was stirred under ice-cooling for 30 minutes. Iodine (590 mg) was added to the reaction solution under ice-cooling, and the reaction solution was stirred under ice-cooling for one hour. Ethyl acetate and a saturated sodium thiosulfate solution were added to the reaction solution, and the organic layer was separated. The resulting organic layer was washed with brine, dried over magnesium sulfate, and then concentrated under reduced pressure to obtain 597 mg of the title compound. The property value of the compound is as follows.

reactant | Iodotrimethylsilane | 0.34 mL | I[Si](C)(C)C | C3H9ISi
reactant | (6R*,9aS*)-6-(3-fluorophenyl) octahydroquinolizin-4-one | 383 mg | FC=1C=C(C=CC1)[C@@H]1N2C(CCC[C@@H]2CCC1)=O | C15H18FNO
reactant | N,N,N′,N′-tetramethylethylenediamine | 0.82 mL | CN(CCN(C)C)C | C6H16N2
reactant | Iodine | 590 mg | II | I2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (6R*,9aS*)-6-(3-fluorophenyl)-3-iodooctahydroquinolizin-4-one | 597 mg | FC=1C=C(C=CC1)[C@@H]1N2C(C(CC[C@@H]2CCC1)I)=O | C15H17FINO
